US09303002B2
5,5′-(sulfonylbis(ethane-2,1-diyl))bis(1,3,4-thiadiazol-2-amine) (I-15)
3,3′-sulfonyldipropanoic acid (1 equivalent) and thiosemicarbazide (2 equivalents) were taken in PPA and refluxed for overnight. The reaction mixture was then cooled to room temperature. The pH of the reaction mixture was adjusted to 14 using aq. KOH solution, stirred for 30 min and filtered off the solid. The Solid obtained was triturated with diethyl ether and dried to afford the title compound I-15 in 20-30% yield.

reactant | 3,3′-sulfonyldipropanoic acid | 1 equivalent | S(=O)(=O)(CCC(=O)O)CCC(=O)O | C6H10O6S
reactant | thiosemicarbazide | 2 equivalents | NNC(=S)N | CH5N3S
reactant | KOH | [OH-].[K+]
product | 5,5′-(sulfonylbis(ethane-2,1-diyl))bis(1,3,4-thiadiazol-2-amine) | 20-30% yield | S(=O)(=O)(CCC1=NN=C(S1)N)CCC1=NN=C(S1)N | C8H12N6O2S3
